US04590277
7-Nitro-4-carboxyacridanone (V; R2 =7-NO2) (by direct nitration)
A stirred solution of 4-carboxyacridanone (10.0 g) in c.H2SO4 (50 ml) was treated portionwise at below 5° C. with powdered KNO3 (4.6 g), then stirred for 30 min at 20° C. and poured into ice water. The precipitate was collected, washed, dried and crystallized from DMF/MeOH and then DMF to give pure product of m.p. about 375° C. (65% yield).

reactant | 4-carboxyacridanone | 10.0 g | C(=O)(O)C1=CC=CC=2C(C3=CC=CC=C3NC12)=O | C14H9NO3
reactant | KNO3 | 4.6 g | [N+](=O)([O-])[O-].[K+]
solvent | H2SO4 | 50 ml | OS(=O)(=O)O | H2O4S
product | 7-Nitro-4-carboxyacridanone | 65% yield | [N+](=O)([O-])C1=CC=C2NC=3C(=CC=CC3C(C2=C1)=O)C(=O)O | C14H8N2O5
